US04675428
Subsequently at room temperature, 5.0 g of the 4-isopropyl-1-methylcyclohexylcarbonyl chloride was added dropwise to 150 ml of an ether solution of diazomethane prepared from 15 g of nitrosourea, and the mixture was stirred at room temperature for about 2 hours. The solvent was distilled off from the reaction mixture in a vacuum, quantitatively giving pale yellow oily 1-diazo-2-(4-isopropyl-1-methylcyclohexyl)-2-ethanone (cis:trans=1:1).

reactant | 4-isopropyl-1-methylcyclohexylcarbonyl chloride | 5.0 g | C(C)(C)C1CCC(CC1)(C(=O)Cl)C | C11H19ClO
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | nitrosourea | 15 g | N(=O)NC(=O)N | CH3N3O2
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1-diazo-2-(4-isopropyl-1-methylcyclohexyl)-2-ethanone | [N+](=[N-])=CC(=O)C1(CCC(CC1)C(C)C)C | C12H20N2O
